US04382942
A mixture of 5 g of 3-(3-methoxyphenyl)-1,2,5,6-tetrahydropyridine hydrochloride, 100 ml of acetone, 7 g of sodium carbonate and 3.5 ml of phenethyl bromide was refluxed for 16 hours and was filtered. The filtrate was evaporated to dryness and the residue was chromatographed over silica gel. The elution with a 7-3 cyclohexane-ethyl acetate mixture yielded 6.2 g of 3-(3-methoxyphenyl)-1-phenethyl-1,2,5,6-tetrahydropyridine.

reactant | 3-(3-methoxyphenyl)-1,2,5,6-tetrahydropyridine hydrochloride | 5 g | Cl.COC=1C=C(C=CC1)C=1CNCCC1
reactant | sodium carbonate | 7 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | phenethyl bromide | 3.5 ml | C(CC1=CC=CC=C1)Br | C8H9Br
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 3-(3-methoxyphenyl)-1-phenethyl-1,2,5,6-tetrahydropyridine | 6.2 g | COC=1C=C(C=CC1)C=1CN(CCC1)CCC1=CC=CC=C1 | C20H23NO
